US07968720B2
{3-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]4-chloro-phenyl}-acetic Acid
Conc. H2SO4 (98%, 5.80 mL) was carefully added to a suspension of CrO3 (6.70 g, 67.0 mmol) in water (12.5 mL). Water was slowly added up to a total volume of 22.5 mL, at which stage the mixture was a clear sol. This sol. was added dropwise to a sol. of [2-chloro-5-(2-hydroxy-ethyl)-benzyl]-cyclopropyl-carbamic acid tert-butyl ester (13.0 g, 39.9 mmol) in acetone (140 mL) at 0° C. When the addition was complete, the mixture was stirred at 0° C. for 30 min. The mixture was filtered, and the filtrate was evaporated under reduced pressure. The residue was diluted with EtOAc, and the resulting mixture was washed with aq. 1M HCl. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (12.2 g, 90%) that was used further without purification. LC-MS: tR=0.95 min; ES+: 325.35.

reactant | H2SO4 | 5.80 mL | OS(=O)(=O)O | H2O4S
reactant | [2-chloro-5-(2-hydroxy-ethyl)-benzyl]-cyclopropyl-carbamic acid tert-butyl ester | 39.9 mmol, 13.0 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CCO)Cl)=O | C17H24ClNO3
solvent | water | 12.5 mL | O | H2O
solvent | acetone | 140 mL | CC(=O)C | C3H6O
product | {3-[(tert-Butoxycarbonyl-cyclopropyl-amino)-methyl]4-chloro-phenyl}-acetic Acid | 12.2 g, 90% | C(C)(C)(C)OC(=O)N(C1CC1)CC=1C=C(C=CC1Cl)CC(=O)O | C17H22ClNO4
